US06140320
Part B: Preparation of rel-(3S,5S)-7-Chloro-1,5-dihydro-5-(2-furanyl)ethynyl-3-methyl-5-(trifluoromethyl)-4,1-benzoxazepin-2(3H)-one
To a stirred ice-cooled solution of 265 mg of 6-amino-3-chloro-α-(furan-2-yl)ethynyl-α-(trifluoromethyl)benzyl alcohol in 10 mL of dry ether was added 0.150 mL of dry pyridine and 0.100 mL of bromopropionyl bromide. After 30 min, the reaction mixture was diluted with ether, washed with water and aqueous sodium bicarbonate, dried and evaporated. The residue was dissolved in 10 mL of dry DMF at 0°, 25 mg of 100% sodium hydride was added, and the resulting mixture was stirred for 15 min at 0° and at room temperature for 30 min. The reaction mixture was then poured onto water and extracted twice with ether. The combined extracts were washed with water and brine, dried and evaporated to a residue which was purified by column chromatography on silica gel (elution with 17-33% ethyl acetate in hexanes) affording after crystallization from ethyl acetale/hexanes 5 mg of the title compound: HRMS: Calcd. for C17H12NO3ClF3 (M+H)+ : 369.037956. Found: 369.036835.

reactant | 6-amino-3-chloro-α-(furan-2-yl)ethynyl-α-(trifluoromethyl)benzyl alcohol | 265 mg | NC1=CC=C(C=C1C(C(F)(F)F)(C#CC=1OC=CC1)O)Cl | C14H9ClF3NO2
reactant | pyridine | 0.150 mL | N1=CC=CC=C1 | C5H5N
reactant | bromopropionyl bromide | 0.100 mL | BrCCC(=O)Br | C3H4Br2O
solvent | ether | 10 mL | CCOCC | C4H10O
product | rel-(3S,5S)-7-Chloro-1,5-dihydro-5-(2-furanyl)ethynyl-3-methyl-5-(trifluoromethyl)-4,1-benzoxazepin-2(3H)-one | ClC=1C=CC2=C([C@](O[C@H](C(N2)=O)C)(C(F)(F)F)C#CC=2OC=CC2)C1 | C17H11ClF3NO3
